US07432289B2
5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide (53 mg, 0.189 mmol) and 2-methyl-5-phenyl-3-furoic acid (76.4 mg, 0.378 mmol) were mixed in THF (5 ml) and the mixture shaken in a varian tube for 15 min at room temperature. Carbodiimde resin (500 mg) was added and shaking continued for 18 h. The solution was filtered off and concentrated under vacuum. The residue was dissolved in methanol, filtered through an SCX SPE and the solvent evaporated under vacuum to give N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-methyl-5-phenyl-3-furamide (24 mg, 28%). NMR; δH CDCl3 7.81,(2H, d), 7.64,(2H, d), 7.55-7.53,(2H, m), 7.45,(1H, s), 7.40-7.37,(4H, m), 7.30-7.25,(2H, m), 6.78,(1H, s), 6.26,(1H, t), 3.33,(2H, t), 2.70,(3H, s), 2.22,(3H, s), 1.07,(1H, m), 0.57,(2H, m), 0.28,(2H, m). LCMS: retention time 3.93 min, MH+465.

reactant | 5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | 0.189 mmol, 53 mg | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 2-methyl-5-phenyl-3-furoic acid | 0.378 mmol, 76.4 mg | CC=1OC(=CC1C(=O)O)C1=CC=CC=C1 | C12H10O3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-methyl-5-phenyl-3-furamide | 24 mg, 28% | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1=C(OC(=C1)C1=CC=CC=C1)C | C30H28N2O3
